US07935819B2
To a solution of 1.98 g of meta-nitrobenzoic acid in 50 mL of dichloromethane are successively added under argon, at 0° C., 0.81 mL of pyrrolidine, 0.13 g of hydroxybenzotriazole, 2.3 g of 1,3-dimethylaminopropyl-3-ethyl carbodiimide and 3.43 mL of diisopropylamine. The reaction mixture is then stirred at room temperature for 15 hours and then washed with water. The organic phase is then washed with saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue is purified by chromatography on a column of silica, eluting with a mixture of ethyl acetate and cyclohexane (60/40 by volume) to give 1.92 g of 1-(3-nitrobenzoyl)pyrrolidine, the characteristics of which are as follows:

reactant | meta-nitrobenzoic acid | 1.98 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | pyrrolidine | 0.81 mL | N1CCCC1 | C4H9N
reactant | hydroxybenzotriazole | 0.13 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1,3-dimethylaminopropyl-3-ethyl carbodiimide | 2.3 g | CNC(CCNC)N=C=NCC | C8H18N4
reactant | diisopropylamine | 3.43 mL | C(C)(C)NC(C)C | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(3-nitrobenzoyl)pyrrolidine | 1.92 g | [N+](=O)([O-])C=1C=C(C(=O)N2CCCC2)C=CC1 | C11H12N2O3
